US05358950
6 g of 6-n-propyl-2-methyl-4-hydrazino-5-[(2'-cyano-4-biphenylyl)methyl]pyrimidine, prepared in Example 12, are heated to 90° C. for 5 hours in 100 ml of triethyl orthoacetate. The mixture is then evaporated under vacuum and the residue is taken up in 75 ml of formic acid. The solution obtained is heated to reflux for 5 hours, the formic acid is then evaporated off under vacuum and the residue is crystallised in an ether/pentane mixture to give 5 g of 7-n-propyl-2,5-dimethyl-8-[(2'-cyano-4biphenylyl)methyl]-1,2,4-triazolo[1,5-c]pyrimidine in the form of crystals of melting point 132° C.

reactant | 6-n-propyl-2-methyl-4-hydrazino-5-[(2'-cyano-4-biphenylyl)methyl]pyrimidine | 6 g | C(CC)C1=C(C(=NC(=N1)C)NN)CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C22H23N5
reactant | triethyl orthoacetate | 100 ml | C(C)(OCC)(OCC)OCC | C8H18O3
product | 7-n-propyl-2,5-dimethyl-8-[(2'-cyano-4biphenylyl)methyl]-1,2,4-triazolo[1,5-c]pyrimidine | 5 g | C(CC)C1=C(C=2N(C(=N1)C)N=C(N2)C)CC2=CC=C(C=C2)C2=C(C=CC=C2)C#N | C24H23N5
